US06379400B1
Synthesis of N-Cyclopropyl-4-nitro-phenylamine
1-Fluoro-4-nitrobenzene (3.5 g, 24.8 mmoles) is refluxed for 5 hours with 8.1 g (0.14 moles) of cyclopropylamine. After that, the reaction product is poured onto 250 g of ice/water and the precipitate is filtered off. After recrystallization from ethanol, a yellow solid with a melting point of 126°-128° C. is obtained.

reactant | 1-Fluoro-4-nitrobenzene | 24.8 mmoles, 3.5 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | cyclopropylamine | 0.14 moles, 8.1 g | C1(CC1)N | C3H7N
product | N-Cyclopropyl-4-nitro-phenylamine | C1(CC1)NC1=CC=C(C=C1)[N+](=O)[O-] | C9H10N2O2
